US07435837B2
(±)-[(N-methyl-1-[7-(2-fluorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine
The title compound was prepared (0.147 g, 66%) following the general procedure of Example 390 as a white solid, hydrochloride salt from (±)-[7-(2-fluorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate (0.300 g, 0.753 mmol) and methylamine (0.92 g, 29.5 mmol). mp 148-150° C.

reactant | (±)-[7-(2-fluorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 0.753 mmol, 0.300 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2C2=C(C=CC=C2)F | C22H19FO4S
reactant | methylamine | 29.5 mmol, 0.92 g | CN | CH5N
product | N-methyl-1-[7-(2-fluorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine | CNCC1OC2=C(C1)C=CC=C2C2=C(C=CC=C2)F | C16H16FNO
